Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Demerol / alendronate sodium / lisinopril
 
Attending: ___.
 
Chief Complaint:
altered mental status  
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Mr. ___ is a ___ man with a history of sporadic 
spinocerebellar degeneration, bipolar disorder, anxiety, HTN, 
T2DM, and CAD who presents from his nursing home at ___ 
___ with 48 hours of altered mental status.  
Per the nursing home report, he had increasing confusion & 
slurred speech. He vomited once before arrival here. The patient 
is alert and oriented to self only. He denies any symptoms, and 
states he would like to go home.  

In the ED, initial vitals were: 97.3 56 128/68 18 99% RA  
 - Exam notable for A&Ox1, R eye closed, R facial droop, b/l 
crackles  
 - Labs showed normal lytes, WBC 13, lactate 2.4, UTox neg, 
trop<0.01  
 - Imaging showed CT head & CT A/P w/o acute process. CXR w/ 
consolidation  
 - Neurology was consulted. They felt this was ___ aspiration 
PNA, and recommended admission to medicine for infection eval & 
treatment.  
 - Received  
 ___ 17:55 IVF NS ( 500 mL ordered) ___ Started 
 
 ___ 19:15 IVF NS ___ Stopped by Other Person 
 
 ___ 01:40 PO/NG TraZODone 50 mg ___  
 ___ 03:23 IV Levofloxacin 750 mg ___  
 ___ 04:19 IV CefePIME 2 g ___  
 ___ 04:47 IV Vancomycin (1000 mg ordered) 
___ Started  
 - Transfer VS were 98.1 97 103/63 18 96% RA  
 
 Decision was made to admit to medicine for further management.  

 On arrival to the floor, patient reports has no complaints, but 
is still altered. He is awake & responding to questions slowly. 
He denies any pain. He is not sure why he is in the hospital.  

 
Past Medical History:
- Anxiety
- CAD
- Bipolar disorder
- DMII
- HLD
- HTN
- Sporadic spinocerebellar ataxia
- Gout
- Cataracts s/p b/l surgery
 
Social History:
___
Family History:
-Mother ___ ___-CORONARY ARTERY DISEASE, MYOCARDIAL 
INFARCTION, HYPERTENSION, TOBACCO ABUSE       
-Father ___ ___- LUNG CANCER, TOBACCO ABUSE, HYPERTENSION, 
CORONARY ARTERY DISEASE, GOUT   
-PGF Deceased - COLORECTAL CANCER   
-Sister Living ___ DIABETES TYPE II, GAIT DISTURBANCE   
-MGF Deceased-DIABETES MELLITUS 
 
Physical Exam:
ADMISSION PHYSICAL EXAM 
 Vital Signs: 98.1 97 103/63 18 96% RA  
 Gen: lying in bed, no acute distress  
 HEENT: no scleral icterus, MMM, nl OP  
 CV: rrr, no m/r/g  
 PULM: normal work of breathing on room air, lungs clear 
bilaterally without wheezes or crackles  
 ABD: soft, NT/ND +bs  
 GU: no foley  
 EXT: warm, no edema, 2+ DP pulses  
 NEURO: alert, oriented to person & place (deaconess), not to 
year. Moving all 4 extremities. ___ strength in b/l hip 
extensors. R eye closed but no facial droop when moving facial 
muscles.  

DISCHARGE PHYSICAL EXAM
Vitals:  97.9  54 111/60 18 96% RA 
 Vital Signs: 98.1 97 103/63 18 96% RA  
 Gen: lying in bed, no acute distress  
 HEENT: no scleral icterus, MMM, nl OP  
 CV: RRR, no m/r/g  
 PULM: normal work of breathing on room air, lungs clear 
bilaterally without wheezes or crackles  
 ABD: soft, NT/ND +bs  
 GU: no foley  
 EXT: warm, no edema, 2+ DP pulses  
 NEURO: alert, oriented to person & place (deaconess), not to 
year (___). Moving all 4 extremities. ___ strength in b/l hip 
extensors. R eye closed but no facial droop when moving facial 
muscles. 
 
Pertinent Results:
ADMIT LABS
___ 04:15PM BLOOD WBC-13.0* RBC-5.19 Hgb-15.6 Hct-49.7 
MCV-96 MCH-30.1 MCHC-31.4* RDW-13.2 RDWSD-46.6* Plt ___
___ 04:15PM BLOOD Neuts-74.1* Lymphs-16.4* Monos-5.3 
Eos-3.4 Baso-0.5 Im ___ AbsNeut-9.64* AbsLymp-2.14 
AbsMono-0.69 AbsEos-0.44 AbsBaso-0.07
___ 04:15PM BLOOD Glucose-147* UreaN-12 Creat-0.8 Na-137 
K-4.7 Cl-100 HCO3-20* AnGap-22*
___ 04:15PM BLOOD ALT-12 AST-26 AlkPhos-65 TotBili-0.4
___ 01:00PM BLOOD CK-MB-1 cTropnT-<0.01
___ 04:15PM BLOOD cTropnT-<0.01
___ 04:15PM BLOOD Lithium-1.0

MRI/MRA Head and Neck
  
1. No evidence acute infarction or intracranial hemorrhage. 
2. Diffuse parenchymal volume loss with probable chronic small 
vessel 
microangiopathy. 
3. Moderate stenosis of the distal right M1 segment of the 
middle cerebral 
artery with relatively decreased arborization of the distal 
right MCA 
branches. 
4. Otherwise, unremarkable MRI of the brain without stenosis, 
occlusion, or 
aneurysm formation. 
5. Mild narrowing at the left vertebral artery origin. 
6. Otherwise, unremarkable MRA of the neck. 
  
CT A/P
1. No acute process within the abdomen or pelvis identified. 
2. Re-demonstration of superior endplate compression fracture of 
L2.  The 
degree of height loss is mildly progressed since prior study of 
___, 
age-indeterminate by CT.  Correlate with focal pain at this 
location to 
exclude the presence of an acute component. 

CT HEAD
1. No acute intracranial process. 
2. Stable chronic findings including likely age-appropriate 
global atrophy, 
vascular calcifications, and at least moderate changes of 
chronic white matter microangiopathy. 

CXR
Streaky left mid to lower lung opacities, atelectasis versus 
pneumonia or 
aspiration. 

DISCHARGE LABS
___ 07:53AM BLOOD WBC-9.2 RBC-4.39* Hgb-13.5* Hct-43.7 
MCV-100* MCH-30.8 MCHC-30.9* RDW-13.3 RDWSD-49.1* Plt ___
___ 07:53AM BLOOD Glucose-113* UreaN-7 Creat-0.8 Na-143 
K-3.9 Cl-105 HCO3-26 AnGap-___ with spinocerebellar degeneration, bipolar disorder, T2DM, 
and CAD with 48 hrs of dysarthria w/altered mental status.  MRI 
negative for acute infarct or mass. MRA shows ?R MCAnarrowing vs 
infarct and mild L vertebral artery narrowing. Patient with 
likely aspiration pneumonia contributing to mental status 
change. SLP recommended pureed diet based on bedside swallow 
evaluation.

Per neurology, his MRI shows no evidence of acute infarct, but 
redemonstrates
severe cerebellar atrophy and other parenchymal white matter
disease. His symptoms are likely secondary to recrudescence of 
cerebellar disease in the setting of acute medical illness, 
which may also be a symptom of his progressive degenerative 
disease. Expect resolution of pneumonia will improve neurologic 
symptoms.

#Altered Mental status/Pneumonia: Mild decrease in mental status 
according to family. Infectious workup revealing possible 
pneumonia. WBC elevated to 13 on admission. Treated with 
levaquin 750mg daily x 3 days with improvement in WBC and mental 
status. Transitioned to Cefpodoxime 400mg PO Q12 given prolonged 
QT. Aspiration thought to be potentially contributing. MRI/MRA 
negative for acute stroke. UA,UCX, BCX negative on admission.
- Continue aspirin 81mg and high dose statin (initiated while 
hospitalized, will need f/u LFTs, lipids).
- Patient should follow up with his neurologist Dr. ___ in clinic as scheduled on ___.

CHRONIC ISSUES:
-SPINOCEREBELLAR DEGENERATION/DEMENTIA: Neuro exam at patients 
baseline
-BIPOLAR DISORDER:  
 - Continued Home Lithium Carbonate  
 - Continued Sertraline 200 mg PO DAILY  
 - Continued TraZODone 50 mg PO QHS:PRN insomnia
-CAD  
 - Continued home Aspirin 81 mg PO DAILY, Atenolol 25 mg PO 
DAILY  
 - increased Pravastatin to 20 mg daily, will need f/u LFTs and 
lipids as outpatient
-T2DM  
 - Held home Metformin, SSI while hospitalized
-GERD  
 - Exchanged home Lansoprazole Oral Disintegrating Tab 30 mg 
Other DAILY to Protonix 40mg daily  
-HYPOTHYROIDISM: continued home levothyroxine 50 mcg, TSH wnl.

TRANSITIONAL ISSUES:
-Speech and Swallow eval reinforced the use of pureed foods, 
nectar thick liquids. This is very important to prevent 
aspiration in the future. See Page 1 for full recommendations.
-Cefpodoxime 400mg PO daily x 3 days more (last day ___
-Patient with Sinus Bradycardia (asymptomatic during sleep); 
Consider switching beta-blocker for another anti-hypertensive 
medication.
-Pravastatin increased to 20mg Daily, will need f/u lipids and 
LFTs as outpatient
-B12 level 208, patient would benefit from B12 injections or 
oral B12 supplementation and folic acid supplementation. 

 # CODE: Pt has MOLST that states he is DNR/DNI.  
 # CONTACT: Proxy name: ___, Phone: ___  

Greater than 30 minutes spent in discharge coordination and 
management.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Nasacort (triamcinolone acetonide) 55 mcg nasal BID 
2. Ocuvite (vit C-vit E-lutein-min-om-3) 150-30-5-150 
mg-unit-mg-mg oral DAILY 
3. Aspirin 81 mg PO DAILY 
4. Atenolol 25 mg PO DAILY 
5. Lithium Carbonate 600 mg PO 4X/WEEK (___) 
6. Meclizine 12.5 mg PO TID dizziness 
7. MetFORMIN (Glucophage) 1000 mg PO DAILY 
8. MetFORMIN (Glucophage) 500 mg PO QHS 
9. Pravastatin 10 mg PO QPM 
10. Sertraline 200 mg PO DAILY 
11. TraZODone 50 mg PO QHS:PRN insomnia 
12. Ondansetron 4 mg PO TID W/MEALS give before meals for nausea 

13. Balmex Diaper Rash (zinc ox-aloe ___ E) 11.3 % 
topical DAILY 
14. Acetaminophen 650 mg PO Q4H:PRN Pain - Mild/Fever 
15. Levothyroxine Sodium 50 mcg PO DAILY 
16. Omeprazole 20 mg PO BID 
17. LOPERamide 2 mg PO DAILY chronic diarrhea 
18. Artificial Tears 4 DROP RIGHT EYE BID 
19. Vitamin D ___ UNIT PO DAILY 
20. Aluminum-Magnesium Hydrox.-Simethicone 15 mL PO QID:PRN 
indigestion or stomach upset 
21. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
22. Milk of Magnesia 30 mL PO Q8H:PRN constipation 
23. Bisacodyl ___AILY:PRN constipation 
24. Fleet Enema ___AILY:PRN constipation 
25. Nystop (nystatin) 100,000 unit/gram topical Q8H 
26. Lithium Carbonate 300 mg PO 3X/WEEK (___) 
27. Lithium Carbonate 450 mg PO 3X/WEEK (___) 

 
Discharge Medications:
1.  Cefpodoxime Proxetil 400 mg PO Q12H 
RX *cefpodoxime 200 mg 2 tablet(s) by mouth twice daily Disp 
#*10 Tablet Refills:*0 
2.  Pravastatin 20 mg PO QPM  
3.  Acetaminophen 650 mg PO Q4H:PRN Pain - Mild/Fever  
4.  Aluminum-Magnesium Hydrox.-Simethicone 15 mL PO QID:PRN 
indigestion or stomach upset  
5.  Artificial Tears 4 DROP RIGHT EYE BID  
6.  Aspirin 81 mg PO DAILY  
7.  Atenolol 25 mg PO DAILY  
8.  Balmex Diaper Rash (zinc ox-aloe ___ E) 11.3 % 
topical DAILY  
9.  Bisacodyl ___AILY:PRN constipation  
10.  Fleet Enema ___AILY:PRN constipation  
11.  Levothyroxine Sodium 50 mcg PO DAILY  
12.  Lithium Carbonate 600 mg PO 4X/WEEK (___)  
13.  Lithium Carbonate 300 mg PO 3X/WEEK (___)  
14.  Lithium Carbonate 450 mg PO 3X/WEEK (___)  
15.  LOPERamide 2 mg PO DAILY chronic diarrhea  
16.  Meclizine 12.5 mg PO TID dizziness  
17.  MetFORMIN (Glucophage) 1000 mg PO DAILY  
18.  MetFORMIN (Glucophage) 500 mg PO QHS  
19.  Milk of Magnesia 30 mL PO Q8H:PRN constipation  
20.  Nasacort (triamcinolone acetonide) 55 mcg nasal BID  
21.  Nystop (nystatin) 100,000 unit/gram topical Q8H  
22.  Ocuvite (vit C-vit E-lutein-min-om-3) 150-30-5-150 
mg-unit-mg-mg oral DAILY  
23.  Omeprazole 20 mg PO BID  
24.  Ondansetron 4 mg PO TID W/MEALS give before meals for 
nausea  
25.  Polyethylene Glycol 17 g PO DAILY:PRN constipation  
26.  Sertraline 200 mg PO DAILY  
27.  TraZODone 50 mg PO QHS:PRN insomnia  
28.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Health Care associated Pneumonia
Spinocerebellar Atrophy
Prolonged QT

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.
Activity Status: Bedbound.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital for confusion. We treated you 
for a Pneumonia and you improved. It is very important that you 
eat only pureed foods and nectar thick liquids to prevent 
choking on your food.

Sincerely,

Your ___ Team
 
Followup Instructions:
___